US05364917
3-Trifluorovinyloxy-N-(4-trifluorovinyloxyphenyl)phthalimide
The product of the previous preparation, 3-(2-Bromotetrafluoroethoxy)-N-(4-(2-bromotetrafluoroethoxy)phenyl) phthalimide, (2.73 g, 0.00445 mole) is dissolved in 20 ml of warm acetonitrile (approximately 50° C.) and added to zinc metal (0.61 g, 0.0093 mole) in 5 ml of acetonitrile stirring at reflux. The reaction mixture is stirred at reflux for 12 hours, then filtered on a fine-pored fritted glass funnel to remove unreacted zinc and zinc halide salts. The precipitate is washed twice with 25 ml of dichloromethane, and the filtrates are combined with the acetonitrile flitrate and evaporated to dryness. The dry residue is dissolved in 15 ml of dichloromethane/hexane (1:1, v/v (volume/volume)) and subjected to column chromatography on neutral alumina using dichloromethane/hexane (1:4, v/v) to provide the product (1.54 g, 83.4 percent yield) as a light yellow solid with a melting point of 160°-160.5° C. IR (cm-1): 1721, 1708, 1322, 1121 (imide), 1289, 1282, 1273, 1213, 1191, 1166, 1146, 1110, 1096 (C-O, C-F), 1514, 808, 801,743 (aromatic).

reactant | 3-(2-Bromotetrafluoroethoxy)-N-(4-(2-bromotetrafluoroethoxy)phenyl) phthalimide | 0.00445 mole, 2.73 g | BrC(C(OC1=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)OC(C(Br)(F)F)(F)F)=CC=C1)(F)F)(F)F | C18H7Br2F8NO4
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | zinc | 0.0093 mole, 0.61 g | [Zn] | Zn
product | 3-Trifluorovinyloxy-N-(4-trifluorovinyloxyphenyl)phthalimide | 1.54 g, 83.4 percent yield | FC(=C(F)F)OC1=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)OC(=C(F)F)F)=CC=C1 | C18H7F6NO4
